US04248869
A mixture of 3-[N-(2,6-dimethylphenyl)carbamoyl]-4-methoxy-6-chloroaniline (650 mg), diethylthiocarbamoyl chloride (360 mg) and chlorobenzene (6 ml) is refluxed for 30 minutes. The reaction mixture is mixed with water and shaken with methylene chloride. The organic layer is washed with water, dried over Glauber's salt and concentrated to remove the solvent. The residue is chromatographed on a column of silica gel, which is eluted with methylene chloride. The eluted fractions are collected and the solvent is evaporated. The residue is recrystallized from ethyl acetate to give 3-[N-(2,6-dimethylphenyl)carbamoyl]-4-methoxy-6-chlorophenyl isothiocyanate (340 mg) as crystals melting at 191°-192.5° C.

reactant | 3-[N-(2,6-dimethylphenyl)carbamoyl]-4-methoxy-6-chloroaniline | 650 mg | CC1=C(C(=CC=C1)C)NC(=O)C=1C=C(N)C(=CC1OC)Cl | C16H17ClN2O2
reactant | diethylthiocarbamoyl chloride | 360 mg | C(C)N(C(=S)Cl)CC | C5H10ClNS
reactant | chlorobenzene | 6 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[N-(2,6-dimethylphenyl)carbamoyl]-4-methoxy-6-chlorophenyl isothiocyanate | 340 mg | CC1=C(C(=CC=C1)C)NC(=O)C=1C=C(C(=CC1OC)Cl)N=C=S | C17H15ClN2O2S
